US09238647B2
Step A: Methyl 4′-fluoro-6-hydroxy-5-nitrobiphenyl-3-carboxylate
To a solution of methyl 3-bromo-4-hydroxy-5-nitrobenzoate (1.0 g, 3.62 mmol), (4-fluorophenyl)-boronic acid (0.76 g, 5.43 mmol), 3,3′,3″-phosphinidynetris (benzensulfonic acid) trisodium salt (0.17 mg, 0.27 mmol), palladium(II) acetate (20.0 mg, 0.09 mmol) and diisopropylamine (0.52 mL, 3.62 mmol) were added N,N-dimethylformamide (13.6 mL) and water (4.5 mL). The mixture was heated to 80° C. After 18 h, the mixture was cooled to ambient temperature and ethyl acetate was added. The organic layer was washed with water (3×), brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→25% hexanes/ethyl acetate). Another purification using reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (0.43 g). LC-MS [M+1]=291.9.

reactant | methyl 3-bromo-4-hydroxy-5-nitrobenzoate | 3.62 mmol, 1.0 g | BrC=1C=C(C(=O)OC)C=C(C1O)[N+](=O)[O-] | C8H6BrNO5
reactant | (4-fluorophenyl)-boronic acid | 5.43 mmol, 0.76 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 3,3′,3″-phosphinidynetris (benzensulfonic acid) trisodium salt | 0.27 mmol, 0.17 mg | [Na+].[Na+].[Na+].P(C=1C=C(C=CC1)S(=O)(=O)[O-])(C=1C=C(C=CC1)S(=O)(=O)[O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | diisopropylamine | 3.62 mmol, 0.52 mL | C(C)(C)NC(C)C | C6H15N
catalyst | palladium(II) acetate | 0.09 mmol, 20.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 4.5 mL | O | H2O
solvent | N,N-dimethylformamide | 13.6 mL | CN(C=O)C | C3H7NO
product | Methyl 4′-fluoro-6-hydroxy-5-nitrobiphenyl-3-carboxylate | 0.43 g | FC1=CC=C(C=C1)C1=CC(=CC(=C1O)[N+](=O)[O-])C(=O)OC | C14H10FNO5
